US09382188B2
B) 3-cyclopropyl-3-(3-(((2-(2,2-dimethylpropyl)-2′-fluoro-5′-methoxybiphenyl-4-yl)sulfinyl)methyl)phenyl)propanoic acid
To a solution of ethyl 3-cyclopropyl-3-(3-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)sulfinyl)methyl)phenyl)propanoate (143 mg) in ethanol (2.6 mL) was added 2N aqueous sodium hydroxide solution (649 μL) at room temperature, and the mixture was stirred at 50° C. for 2 hr. The reaction mixture was cooled to 0° C., neutralized with 1N hydrochloric acid, and extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give the title compound (129 mg) as a white amorphous solid.

reactant | ethyl 3-cyclopropyl-3-(3-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)sulfinyl)methyl)phenyl)propanoate | 143 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)CS(=O)C1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C | C33H39FO4S
reactant | sodium hydroxide | 2N, 649 μL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 2.6 mL | C(C)O | C2H6O
product | 3-cyclopropyl-3-(3-(((2-(2,2-dimethylpropyl)-2′-fluoro-5′-methoxybiphenyl-4-yl)sulfinyl)methyl)phenyl)propanoic acid | 129 mg | C1(CC1)C(CC(=O)O)C1=CC(=CC=C1)CS(=O)C1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C | C31H35FO4S
